US06121271
5-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-4-methoxy-thiophene-3-carboxylic acid methyl ester
At ambient temperature, to a stirred solution of 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol (0.308 g, 0.683 mmol) in N,N-DMF (3.41 mL) was added in one portion 60% NaH/mineral oil (27.3 mg, 0.683 mmol). After 0.5 h, to the reaction was added a solution of commercial 3-methoxy-4-(methoxycarbonyl)thiophene-2-sulphonylchloride (0.204 g, 0.751 mmol) in N,N-DMF (1.37 mL). After 1 h, the reaction was quenched with 1 N HCl (50 mL) combined with product from an identical experiment and extracted with 25% CH2Cl2 /EtOAc. The combined organic extracts were washed with brine (3×), dried (MgSO4) and concentrated. Purification on Biotage KP-Sil eluting with 15% EtOAc/pet. ether gave 0.593 g, (64%) of the title compound as a colorless solid. 1H NMR (DMSO-d6) δ 1.20-1.41 (m, 2 H), 1.43-1.83 (m, 9H), 2.44 (s, 3 H), 3.24 (quintet, 1 H), 3.85 (s, 3 H), 3.99 (s, 3 H), 7.24-7.38 (m, 4 H), 7.50 (t, 1 H), 7.66 (t, 1 H), 8.21 (d, 1 H), 8.81 (s, 1 H).

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol | 0.683 mmol, 0.308 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C=C2)O)C2CCCC2 | C25H23BrOS
reactant | 3-methoxy-4-(methoxycarbonyl)thiophene-2-sulphonylchloride | 0.751 mmol, 0.204 g | COC1=C(SC=C1C(=O)OC)S(=O)(=O)Cl | C7H7ClO5S2
solvent | NaH | [H-].[Na+]
product | 5-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-4-methoxy-thiophene-3-carboxylic acid methyl ester | 64% | COC(=O)C1=CSC(=C1OC)S(=O)(=O)OC1=C(C=C(C=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C2CCCC2 | C32H29BrO6S3
